US07094801B2
Ex-69A: A solution of 2-bromo-1-(3,4-dimethoxy-phenyl)-ethanone (0.62 g, 2.39 mmol) and thioacetamide (0.18 g, 2.39 mmol) in ethanol (30 mL) was refluxed for 2 hours and the solvent was removed under reduced pressure. The product, 4-(3,4-dimethoxy-phenyl)-2-methyl-thiazole (0.56 g, 100%) was obtained as a white solid and used without further purification. To a suspension of 4-(3,4-dimethoxy-phenyl)-2-methyl-thiazole obtained above (0.70 g, 2.97 mmol) in dichloromethane (60 mL) at 0° C. was added dichloromethyl methyl ether (0.40 mL, 4.46 mmol) followed by addition of titanium tetrachloride (1.0 M solution in dichloromethane, 8.9 mL, 8.9 mmol) dropwise. The reaction mixture was allowed to stir overnight at ambient temperature and then poured into ice. The aqueous solution was extracted with dichloromethane. The solution of dichloromethane was washed with hydrochloric acid (0.5M), saturated solution of sodium bicarbonate and brine, dried over sodium sulfate and concentrated. The product, 2,4-dimethoxy-5-(2-methyl-thiazol-4-yl)-benzaldehyde, was obtained as a white solid. 1H NMR (CDCl3) δ 10.33 (s, 1H), 8.67 (s, 1H), 7.56 (s, 1H), 6.52 (s, 1H), 4.03 (s, 3H), 3.99 (s, 3H), 2.75 (s, 3H).

reactant | 2-bromo-1-(3,4-dimethoxy-phenyl)-ethanone | 2.39 mmol, 0.62 g | BrCC(=O)C1=CC(=C(C=C1)OC)OC | C10H11BrO3
reactant | thioacetamide | 2.39 mmol, 0.18 g | C(C)(=S)N | C2H5NS
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 4-(3,4-dimethoxy-phenyl)-2-methyl-thiazole | 0.56 g, 100% | COC=1C=C(C=CC1OC)C=1N=C(SC1)C | C12H13NO2S
